US06384028B1
To a solution of N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-2-hydroxymethyl-β-alanine (0.24 g) in ethyl acetate (2 ml) was added 4N HCl in ethyl acetate (1.3 ml) at 0° C., and the reaction mixture was stirred for 2 hours at room temperature. The precipitates were filtered and washed with diethyl ether to give N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-2-hydroxymethyl-β-alanine hydrochloride (0.17 g, 82.0%).

reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-2-hydroxymethyl-β-alanine | 0.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)NCC(C(=O)O)CO | C23H37N3O7
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.3 ml | C(C)(=O)OCC | C4H8O2
product | N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-2-hydroxymethyl-β-alanine hydrochloride | 0.17 g, 82.0% | Cl.N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)NCC(C(=O)O)CO | InChI=1S/C18H29N3O5.ClH/c22-12-15(18(25)26)10-20-17(24)14-2-1-9-21(11-14)16(23)4-3-13-5-7-19-8-6-13;/h3-4,13-15,19,22H,1-2,5-12H2,(H,20,24)(H,25,26);1H/b4-3+;/t14-,15?;/m1./s1
